US09107964B2
409 mg (1.71 mmol equivalents) of 5-bromomethyl-2,2-dimethyl-5-hydroxymethyl-1,3-dioxane was dissolved in 5 mL of dimethylformamide, 233 mg (3.42 mmol equivalents) of imidazole and 309 mg (2.05 mmol equivalents) of t-butyldimethylchlorosilane were added thereto, and the mixture was stirred at room temperature (25° C.) for 18 hours. After completion of the reaction, a saturated aqueous solution of ammonium chloride and water were added thereto, and the mixture was extracted three times with ethyl acetate. The combined ethyl acetate layers were washed with water and brine, then dried with anhydrous magnesium sulfate and subsequently concentrated under vacuum, and the obtained crude product was purified by silica gel column chromatography (eluent: hexane/ethyl acetate (v/v)=20/1) to give 578 mg (1.64 mmol equivalents) of 5-bromomethyl-5-(t-butyldimethylsiloxymethyl)-2,2-dimethyl-1,3-dioxane.

reactant | 5-bromomethyl-2,2-dimethyl-5-hydroxymethyl-1,3-dioxane | 1.71 mmol, 409 mg | BrCC1(COC(OC1)(C)C)CO | C8H15BrO3
reactant | imidazole | 3.42 mmol, 233 mg | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylchlorosilane | 2.05 mmol, 309 mg | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-bromomethyl-5-(t-butyldimethylsiloxymethyl)-2,2-dimethyl-1,3-dioxane | 1.64 mmol, 578 mg | BrCC1(COC(OC1)(C)C)CO[Si](C)(C)C(C)(C)C | C14H29BrO3Si
